### PR TITLE
[Merged by Bors] - feat(CategoryTheory): pseudofunctors from strict bicategories

### PR DESCRIPTION
**Pull request by joelriou**
This PR provides an API for pseudofunctors `F` from a strict bicategory `B`. In particular, this shall apply to pseudofunctors from locally discrete bicategories.

We first introduce more flexible variants of `mapId` and `mapComp`: for example, if `f` and `g` are composable morphisms and `fg` is such that `h : fg = f ≫ f`, we provide an isomorphism `F.mapComp' f g fg h : F.map fg ≅ F.map f ≫ F.map g`. We study the compatibilities of these isomorphisms with respect to composition with identities and associativity.

Secondly, given a commutative square `t ≫ r = l ≫ b` in `B`, we construct an isomorphism `F.map t ≫ F.map r ≅ F.map l ≫ F.map b`.

Co-authored-by: Christian Merten <christian@merten.dev>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by erdOne — COMMENTED** [review]
Do you think `.hom` and `.inv` simp lemmas are useful here?

File: Mathlib/CategoryTheory/Bicategory/Functor/Strict.lean [hunk 1]
```diff
@@ -0,0 +1,178 @@
...
+  subst hφ
+  simp [isoMapOfCommSq, mapComp'_eq_mapComp]
+
+end
+
+/-- Equational lemma for `Pseudofunctor.isoMapOfCommSq` when
+both vertical maps of the square are the same and horizontal maps are identities. -/
+lemma isoMapOfCommSq_horiz_id (f : X₁ ⟶ X₂) :
+    F.isoMapOfCommSq (t := 𝟙 _) (l := f) (r := f) (b := 𝟙 _) ⟨by simp⟩ =
+      whiskerRightIso (F.mapId X₁) (F.map f) ≪≫ λ_ _  ≪≫ (ρ_ _).symm ≪≫
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Bicategory/Functor/Strict.lean:158]:
```suggestion
      whiskerRightIso (F.mapId X₁) (F.map f) ≪≫ λ_ _ ≪≫ (ρ_ _).symm ≪≫
```

**Comment by joelriou** [comment]
> Do you think `.hom` and `.inv` simp lemmas are useful here?

If the remark applies to `mapComp'_comp_id` and `mapComp'_id_comp`, I do not think we need `_hom/_inv` versions, as it seems very unlikely that we would need to apply these lemmas in the backwards direction. The situation is different for the associativity lemmas because they relate four different `mapComp'` isomorphisms.

File: Mathlib/CategoryTheory/Bicategory/Functor/Strict.lean [hunk 2]
```diff
@@ -0,0 +1,146 @@
...
+  rw [mapComp'_def]
+  dsimp
+  rw [F.mapComp_id_right_hom f, Strict.rightUnitor_eqToIso, eqToIso.hom,
+    ← F.map₂_comp_assoc, eqToHom_trans, eqToHom_refl, PrelaxFunctor.map₂_id,
+    Category.id_comp]
+
+lemma mapComp'_id_comp {b₀ b₁ : B} (f : b₀ ⟶ b₁) :
+    F.mapComp' (𝟙 b₀) f f = (λ_ _).symm ≪≫ whiskerRightIso (F.mapId b₀).symm _ := by
+  ext
+  rw [mapComp'_def]
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Bicategory/Functor/Strict.lean:45]:
```suggestion
  rw [mapComp']
  dsimp
  rw [F.mapComp_id_right_hom f, Strict.rightUnitor_eqToIso, eqToIso.hom,
    ← F.map₂_comp_assoc, eqToHom_trans, eqToHom_refl, PrelaxFunctor.map₂_id,
    Category.id_comp]

lemma mapComp'_id_comp {b₀ b₁ : B} (f : b₀ ⟶ b₁) :
    F.mapComp' (𝟙 b₀) f f = (λ_ _).symm ≪≫ whiskerRightIso (F.mapId b₀).symm _ := by
  ext
  rw [mapComp']
```
If you agree with my other comment

**Comment by joelriou** [comment]
Thanks @callesonne and @erdOne for the reviews!

File: Mathlib/CategoryTheory/Bicategory/Functor/Strict.lean [hunk 3]
```diff
@@ -0,0 +1,146 @@
...
+
+/-- Equational lemma for `Pseudofunctor.isoMapOfCommSq` when
+both horizontal maps of the square are the same and vertical maps are identities. -/
+lemma isoMapOfCommSq_vert_id (f : X₁ ⟶ X₂) :
+    F.isoMapOfCommSq (t := f) (l := 𝟙 _) (r := 𝟙 _) (b := f) ⟨by simp⟩ =
+      whiskerLeftIso (F.map f) (F.mapId X₂) ≪≫ ρ_ _ ≪≫ (λ_ _).symm ≪≫
+        (whiskerRightIso (F.mapId X₁) (F.map f)).symm := by
+  ext
+  rw [isoMapOfCommSq_eq _ _ f (by simp), mapComp'_comp_id, mapComp'_id_comp]
+  simp
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Bicategory/Functor/Strict.lean:140]: What's the use case for these two lemmas?

Comment (joelriou) [reply Mathlib/CategoryTheory/Bicategory/Functor/Strict.lean:140]: These are basic API lemmas for `isoMapOfCommSq`. Soon, I will add similar lemmas for the horizontal and vertical composition of squares.
I am using it there https://github.com/joelriou/topcat-model-category/blob/4b4b46eda5c6038efa64d7c70e9c46cfb6e5b6dd/TopCatModelCategory/PseudoFunctor/MorphismProperty.lean#L75-L103 and https://github.com/joelriou/topcat-model-category/blob/4b4b46eda5c6038efa64d7c70e9c46cfb6e5b6dd/TopCatModelCategory/SSet/KanComplexWRetracts.lean in order to prove that if a map of (Kan) simplicial sets induces an equivalence of categories on the fundamental groupoid, then the same applies to any retract. It will also be used when studying base change theorems (e.g. the base change theorem holds when horizontal or vertical maps are identities).

File: Mathlib/CategoryTheory/Bicategory/Functor/Strict.lean [hunk 4]
```diff
@@ -0,0 +1,146 @@
...
+
+-/
+
+namespace CategoryTheory
+
+open Bicategory
+
+namespace Pseudofunctor
+
+variable {B C : Type*} [Bicategory B] [Strict B] [Bicategory C] (F : Pseudofunctor B C)
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Bicategory/Functor/Strict.lean:31]: I know that for bicategories apparently you should call the universes in order `w v u` for `Bicategory.{w, v} B` and `B : Type u` (for some reason this order is important, or at least was 6 months ago). Is this OK if you just use `Type*`? They seem to be labeled the other way here, so w corresponds to `u_3`.

Comment (joelriou) [reply Mathlib/CategoryTheory/Bicategory/Functor/Strict.lean:31]: In category theory, there are many files which starts with `variable (C : Type*) [Category C]` (and even though the policy has changed multiple times, it seems the latest tendency is not to use explicit universe variables unless there is a good reason to do so). I do not see any reason to be reluctant to do the same for bicategories. The order of universes is important for the declarations which uses "free" universe variables, like `HasLimitsOfSize`. In this file, everything depends on `F : Pseudofunctor B C`. If we want to apply the API in this PR to `Pseudofunctor.id Cat` for example, we would rather specify the universes for `Cat` as `Pseudofunctor.id Cat.{v, u}` rather than as `Pseudofunctor.mapComp'_comp_id.{?, ?, ?} Cat...`, so that the order of the universes is not at all relevant here.

Comment (callesonne) [reply Mathlib/CategoryTheory/Bicategory/Functor/Strict.lean:31]: Okay thank you very much!

File: Mathlib/CategoryTheory/Bicategory/Functor/Strict.lean (hunk 3 above)
Comment (callesonne) [reply Mathlib/CategoryTheory/Bicategory/Functor/Strict.lean:140]: Okay that's great to know!

**Review by callesonne — APPROVED** [review]
LGTM!

**Comment by callesonne** [comment]
@erdOne do you want to maintainer merge this?

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
